US06274620B1
3-[(5-Bromo-thiophene-2-carbonyl)-amino]-2-(2,4,6-trimethylbenzenesulfonyl amino)-propionic acid tert-butyl ester (A-2)
4-methylmorpholine (3.6 mL, 32.7 mmol) was added to a mixture of 5-bromothiophene-2-carboxylic acid (3.6 g; 17.4 mmol), 2-tert-butoxycarbonyl-2-(2,4,6-trimethyl-benzenesulfonylamino)-ethyl-ammonium chloride (6.0 g; 15.85 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (3.34 g; 17.4 mmol) and 1-hydroxybenzotriazole (2.35 g; 17.4 mmol) in dry DMF (45 mL). The mixture was stirred at room temperature for 16 h. DMF was removed and the crude mixture was dissolved in ethyl acetate (400 mL). The solution was washed with water (25 mL), saturated NaCl (25 mL), 5% KHSO4 (25 mL), saturated NaCl (25 mL), saturated NaHCO3-saturated NaCl mixture (1:1) (25 mL), dried and evaporated. The crude was passed through a column of silica gel and the column was eluted with hexane-EtOAc mixtures (10% to 30% EtOAc) yielding 7.9 g of compound A-2 containing trace amount of ethyl acetate (90% yield).

reactant | 4-methylmorpholine | 32.7 mmol, 3.6 mL | CN1CCOCC1 | C5H11NO
reactant | 5-bromothiophene-2-carboxylic acid | 17.4 mmol, 3.6 g | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | 2-tert-butoxycarbonyl-2-(2,4,6-trimethyl-benzenesulfonylamino)-ethyl-ammonium chloride | 15.85 mmol, 6.0 g | [Cl-].C(C)(C)(C)OC(=O)C(C[NH3+])NS(=O)(=O)C1=C(C=C(C=C1C)C)C
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 17.4 mmol, 3.34 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 17.4 mmol, 2.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 3-[(5-Bromo-thiophene-2-carbonyl)-amino]-2-(2,4,6-trimethylbenzenesulfonyl amino)-propionic acid tert-butyl ester | 7.9 g | C(C)(C)(C)OC(C(CNC(=O)C=1SC(=CC1)Br)NS(=O)(=O)C1=C(C=C(C=C1C)C)C)=O | C21H27BrN2O5S2
